US06869954B2
8) Preparation of 6-(3-fluoro-4-methylphenyl)-4-hydroxy-methyl-2-isobutyl-2H-pyridazin-3-one
To a solution of 4-carboxy-6-(3-fluoro-4-methyl-phenyl)-2-isobutyl-2H-pyridazin-3-one (4.53 g, 14.9 mmol) in THF (40 mL) was added triethylamine (1.66 g, 16.4 mmol). To the ice-cooled mixture was added dropwise a solution of ethyl chlorocarbonate (1.78 g, 16.4 mmol) in THF (5 mL), and the mixture was stirred for 30 minutes. Triethylamine hydrochloride was filtered off. A solution of sodium borohydride (564 mg, 14.9 mmol) in water (1 mL) was added to the filtrate, and then, the mixture was stirred at room temperature for 10 minutes. Thereafter, 2 mol/L hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel [silica gel 300 g, chloroform/methanol (100/1→50/1)) to yield the title compound as a colorless crystalline powder (1.08 g, 25.0%).

reactant | 4-carboxy-6-(3-fluoro-4-methyl-phenyl)-2-isobutyl-2H-pyridazin-3-one | 14.9 mmol, 4.53 g | C(=O)(O)C=1C(N(N=C(C1)C1=CC(=C(C=C1)C)F)CC(C)C)=O | C16H17FN2O3
reactant | triethylamine | 16.4 mmol, 1.66 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 16.4 mmol, 1.78 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | sodium borohydride | 14.9 mmol, 564 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 6-(3-fluoro-4-methylphenyl)-4-hydroxy-methyl-2-isobutyl-2H-pyridazin-3-one | 1.08 g, 25.0% | FC=1C=C(C=CC1C)C=1C(=C(C(N(N1)CC(C)C)=O)O)C | C16H19FN2O2
